US06004977
2,3-Dihydro-N-2-pyridinyl-1H-isoindol-2-amine
Triethylamine (10.5 ml) was added to a solution of alpha, alpha'-dibromo-o-xylene (10 g) and 2-hydrazinopyridine (4.1 g) in dimethylformamide. The mixture was stirred, under nitrogen, at ambient temperature for about 20 mins and diluted with water and ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. Trituration of the residue with ethyl acetate gave 3.8 g (48%) of product. Recrystallization of the product from ethyl acetate afforded the analytical sample, mp 130-131° C.

reactant | Triethylamine | 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-hydrazinopyridine | 4.1 g | N(N)C1=NC=CC=C1 | C5H7N3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-Dihydro-N-2-pyridinyl-1H-isoindol-2-amine | 3.8 g, 48% | N1=C(C=CC=C1)NN1CC2=CC=CC=C2C1 | C13H13N3
